* {cable}_{length}.lib
* Date: {date}
* Desc.: SPICE subcircuit Model for {cable} at {length} 
*
*
.subckt {cable}_{length} IN R1 OUT R2
E1 PZ1 R1 PZ1_C1 R1 1
R1 PZ1_C1 IN {R1:0.4f}
C1 PZ1_C1 PZ1_RI1 {C1:0.4e}
Ri_1 PZ1_RI1 R1 {Z}
E2 PZ2 R1 PZ2_C2 R1 1
R2 PZ2_C2 PZ1 {R2:0.4f}
C2 PZ2_C2 PZ2_RI {C2:0.4e}
Ri_2 PZ2_RI R1 {Z}
E3 PZ3 R1 PZ3_C3 R1 1
R3 PZ3_C3 PZ2 {R3:0.4f}
C3 PZ3_C3 PZ3_RI {C3:0.4e}
Ri_3 PZ3_RI R1 {Z}
E4 PZ4 R1 PZ4_C4 R1 1
R4 PZ4_C4 PZ3 {R4:0.4f}
C4 PZ4_C4 PZ4_RI {C4:0.4e}
Ri_4 PZ4_RI R1 {Z}
E5 PZ5 R1 PZ5_C5 R1 1
R5 PZ5_C5 PZ4 {R5:0.4f}
C5 PZ5_C5 PZ5_RI {C5:0.4e}
Ri_5 PZ5_RI R1 {Z}
E6 tl_out R1 PZ6_C1 R1 1
Ri_6 PZ6_C1 PZ5 {Z}
C6 PZ6_C1 R1 {C6:0.4e}
*
* Additional lossless Transmission line to add delay
*
T1 tl_out R1 OUT R2 Td={delay} Z0={Z}
.ends
* 
*
*  Subcircuit END